US06166064
5-Fluoro-1H-indole-6-sulfonic acid amide
A mixture of 3 grams of mangenese dioxide and 3 grams of 5-fluoro-2,3-dihydro-1H-indole-6-sulfonic acid amide in 30 ml of dioxane was heated at 50° overnight. The reaction was filtered and the filtrate was evaporated to afford crude product which was purified on silica gel eluting with methylene chloride/ethyl acetate to give 1.1 grams of the titled compound. mp: 181-182° C.

reactant | 5-fluoro-2,3-dihydro-1H-indole-6-sulfonic acid amide | 3 grams | FC=1C=C2CCNC2=CC1S(=O)(=O)N | C8H9FN2O2S
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 5-Fluoro-1H-indole-6-sulfonic acid amide | 1.1 grams | FC=1C=C2C=CNC2=CC1S(=O)(=O)N | C8H7FN2O2S
